US07973026B2
Step 3: methyl 4H-thieno[3,2-b]pyrrole-2-carboxylate
10% Pd/C (0.4 eq.) and ammonium formate (6 eq.) were added to a 0.1M solution of methyl 5-[(E)-2-(dimethylamino)ethenyl]-4-nitrothiophene-2-carboxylate in MeOH/EtOAc 1:1, and the mixture was heated to reflux for 30 min; after cooling to RT the flask was flushed with nitrogen a few times, then the reaction mixture was filtered and the solution evaporated i. vac. The residue was dissolved in EtOAc and washed with water and brine, dried over Na2SO4, and concentrated i. vac. The crude product (50% over two steps) was used as such. 1H-NMR (400 MHz, CDCl3, 300 K, δ) 8.44 (bs, 1H), 7.72 (s, 1H), 7.21 (bs, 1H), 6.50 (bs, 1H), 3.91 (s, 3H); MS (ES+) m/z 182 (M+H)+.

reactant | ammonium formate | 6 eq. | C(=O)[O-].[NH4+]
reactant | methyl 5-[(E)-2-(dimethylamino)ethenyl]-4-nitrothiophene-2-carboxylate | CN(/C=C/C1=C(C=C(S1)C(=O)OC)[N+](=O)[O-])C | C10H12N2O4S
solvent | MeOH EtOAc | CO.CCOC(=O)C
catalyst | Pd/C | 0.4 eq. | [Pd] | Pd
product | methyl 4H-thieno[3,2-b]pyrrole-2-carboxylate | S1C(=CC=2NC=CC21)C(=O)OC | C8H7NO2S
